US05047543
2,6-Dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-(3-nitrooxypropyl) ester 5-(2-picolinoylaminoethyl) ester (Compound 1)
A solution of 9.07 g (0.06 mole) of m-nitrobenzaldehyde, 15.00 g (0.06 mole) of 2-picolinoylaminoethyl acetoacetate, 12.24 g (0.06 mole) of 3-nitrooxypropyl 3-aminocrotonate and 1.74 g (0.012 mole) of piperidinium acetate in 200 ml of 2-propanol was refluxed for 4 hours. After the reaction, the solvent was evaporated, and the residue was purified by silica gel column chromatography [eluent; ethyl acetate hexane (1:3)] to give 20.45 g of the title compound.

reactant | m-nitrobenzaldehyde | 0.06 mole, 9.07 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 2-picolinoylaminoethyl acetoacetate | 0.06 mole, 15.00 g | C(CC(=O)C)(=O)OCCNC(C1=NC=CC=C1)=O | C12H14N2O4
reactant | 3-nitrooxypropyl 3-aminocrotonate | 0.06 mole, 12.24 g | N\C(=C/C(=O)OCCCO[N+](=O)[O-])\C | C7H12N2O5
reactant | piperidinium acetate | 0.012 mole, 1.74 g | C(C)(=O)[O-].[NH2+]1CCCCC1
solvent | 2-propanol | 200 ml | CC(C)O | C3H8O
product | 2,6-Dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-(3-nitrooxypropyl) ester 5-(2-picolinoylaminoethyl) ester | 20.45 g | N1=C(C=CC=C1)C(=O)NCCOC(=O)C=1C(C(=C(NC1C)C)C(=O)OCCCO[N+](=O)[O-])C1=CC(=CC=C1)[N+](=O)[O-] | C26H27N5O10
